US07368578B2
To a mixture of ethyl 1-{4-[(4-hydroxymethyl-2-methoxyphenoxy)methyl]-5-methyl-1,3-thiazol-2-yl}piperidine-4-carboxylate (1.35 g) and toluene (50 mL) was added thionyl chloride (0.42 g), and the mixture was heated under reflux for 2 hrs. The reaction mixture was concentrated and ethyl acetate was added to the residue. The organic layer was washed successively with saturated aqueous sodium hydrogen carbonate and saturated brine, dried over anhydrous magnesium sulfate and concentrated. The residue was subjected to silica gel column chromatography and eluted with ethyl acetate-hexane (1:4, v/v) to give ethyl 1-{4-[(4-chloromethyl-2-methoxyphenoxy)methyl]-5-methyl-1,3-thiazol-2-yl}piperidine-4-carboxylate as colorless crystals (0.45 g, yield 32%). Recrystallization from ethyl acetate-hexane gave colorless prism crystals. melting point: 98-99° C.

reactant | ethyl 1-{4-[(4-hydroxymethyl-2-methoxyphenoxy)methyl]-5-methyl-1,3-thiazol-2-yl}piperidine-4-carboxylate | 1.35 g | OCC1=CC(=C(OCC=2N=C(SC2C)N2CCC(CC2)C(=O)OCC)C=C1)OC | C21H28N2O5S
reactant | thionyl chloride | 0.42 g | S(=O)(Cl)Cl | Cl2OS
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | ethyl 1-{4-[(4-chloromethyl-2-methoxyphenoxy)methyl]-5-methyl-1,3-thiazol-2-yl}piperidine-4-carboxylate | 0.45 g, yield 32% | ClCC1=CC(=C(OCC=2N=C(SC2C)N2CCC(CC2)C(=O)OCC)C=C1)OC | C21H27ClN2O4S
